US07618975B2
(2-Chloromethyl-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine
2-Chloromethyl-quinazolin-4(3H)-one: To a solution of 2-amino-benzoic acid methyl ester (0.26 ml, 2 mmol) and chloro-acetonitrile (0.16 ml, 4.0 mmol) in dioxane (8 ml) at room temperature was added concentrated HCl (1.0 ml) dropwise. The mixture was heated at 80° C. for 24 h and then cooled to room temperature. The resulting solid was collected and dissolved in water (10 ml), and the solution was neutralized with 2 N NaOH aqueous to pH 7. The precipitation was collected by filtration, then washed with water and dried to give 309 mg (79.6%) of the title compound.

reactant | 2-Chloromethyl-quinazolin-4(3H)-one | ClCC1=NC2=CC=CC=C2C(N1)=O | C9H7ClN2O
reactant | 2-amino-benzoic acid methyl ester | 2 mmol, 0.26 ml | COC(C1=C(C=CC=C1)N)=O | C8H9NO2
reactant | chloro-acetonitrile | 4.0 mmol, 0.16 ml | ClCC#N | C2H2ClN
reactant | HCl | 1.0 ml | Cl | ClH
reactant | dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | (2-Chloromethyl-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | 309 mg, 79.6% | ClCC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C17H16ClN3O
